US05084085
Hydrogenation of 5.80 g (0.015 mole) of 1-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one dissolved in 100 mL of ethanol in the presence of a catalytic amount (0.30 g) of platinum oxide produced 4.6 g of 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one as a solid, m.p. 133°-135° C., Compound 3 of Table 1.

reactant | 1-[4-chloro-2-fluoro-5-(4-nitrophenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.015 mole, 5.80 g | ClC1=CC(=C(C=C1OC1=CC=C(C=C1)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C)F | C16H10ClF3N4O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.30 g | [Pt]=O
product | 1-[5-(4-aminophenoxy)-4-chloro-2-fluorophenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 4.6 g | NC1=CC=C(OC=2C(=CC(=C(C2)N2N=C(N(C2=O)C(F)F)C)F)Cl)C=C1 | C16H12ClF3N4O2
